US09212190B2
To a 50-mL round-bottom flask containing a solution of tert-butyl N-(4-[[(3R)-3-(cyanomethyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]-1-methylcyclohexyl)carbamate (100 mg, 0.23 mmol, 1.00 equiv) in distilled DMF (3 mL) was added sodium hydride (60% dispersion in mineral oil 37 mg, 0.93 mmol, 4.09 equiv) at 0° C. The resulting solution was stirred for 0.5 h at this temperature. Then CH3I (321 mg, 2.26 mmol, 1.00 equiv) was added and the resulting solution was allowed to react, with stirring, for an additional 2 h at 30° C. The reaction was then quenched with saturated aqueous NH4Cl and extracted with 3×30 mL of ethyl acetate. The combined organic layers were washed with brine, dried over sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:2) to give tert-butyl N-(4-[[(3R)-3-(cyanomethyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]-1-methylcyclohexyl)-N-methylcarbamate (80 mg, 78%) as a white solid.

reactant | tert-butyl N-(4-[[(3R)-3-(cyanomethyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]-1-methylcyclohexyl)carbamate | 0.23 mmol, 100 mg, 1.00 equiv | C(#N)C[C@@H]1C=2C=3C(=NC=NC3SC2CC1)OC1CCC(CC1)(C)NC(OC(C)(C)C)=O | C23H30N4O3S
reactant | sodium hydride | 0.93 mmol, 37 mg, 4.09 equiv | [H-].[Na+]
reactant | CH3I | 2.26 mmol, 321 mg, 1.00 equiv | CI | CH3I
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | tert-butyl N-(4-[[(3R)-3-(cyanomethyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]-1-methylcyclohexyl)-N-methylcarbamate | 80 mg, 78% | C(#N)C[C@@H]1C=2C=3C(=NC=NC3SC2CC1)OC1CCC(CC1)(C)N(C(OC(C)(C)C)=O)C | C24H32N4O3S
